US04028403
reacting benzenephosphonous acid in a sulfuric acid medium under nitrating conditions by the dropwise addition of nitric acid at a temperature of about 0° C. to about 5° C. to form m-nitrobenzenephosphonous acid in a reaction mixture;

reactant | benzenephosphonous acid | C1(=CC=CC=C1)P(O)O | C6H7O2P
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | m-nitrobenzenephosphonous acid | [N+](=O)([O-])C=1C=C(C=CC1)P(O)O | C6H6NO4P
